US08377980B2
To a solution of (S)-methyl 2-(methoxycarbonylamino)-2-((S)-tetrahydro-2H-pyran-3-yl)acetate (126 mg, 0.545 mmol) in THF (4 mL) stirring at rt was added a solution of 1M LiOH (1.090 mL, 1.090 mmol) in water. The reaction was stirred at rt for 3 h, neutralized with 1M HCl (1.1 mL) and extracted with EtOAc (3×10 mL). The organics were dried, filtered and concentrated to yield (S)-2-(methoxycarbonylamino)-2-((S)-tetrahydro-2H-pyran-3-yl)acetic acid (Cap-177a) (125 mg) as a clear colorless oil. LC-MS retention time 0.44 min; m/z 218.00 (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a PHENOMENEX® Luna 10u C18 3.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where Solvent A was 5% MeOH/95% H2O/10 mM ammonium acetate and Solvent B was 5% H2O/95% MeOH/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. 1H NMR (400 MHz, chloroform-d) δ ppm 5.28 (d, J=8.8 Hz, 1H), 4.38 (dd, J=8.7, 5.6 Hz, 1H), 3.96-4.04 (m, 1H), 3.91 (d, J=11.0 Hz, 1H), 3.71 (s, 3 H), 3.33-3.41 (m, 1H), 3.24-3.32 (m, 1H), 2.10-2.24 (m, 1H), 1.74-1.83 (m, 1H), 1.63-1.71 (m, 2H), 1.35-1.49 (m, 1H).

reactant | (S)-methyl 2-(methoxycarbonylamino)-2-((S)-tetrahydro-2H-pyran-3-yl)acetate | 0.545 mmol, 126 mg | COC(=O)N[C@H](C(=O)OC)[C@H]1COCCC1 | C10H17NO5
reactant | LiOH | 1.090 mmol, 1M, 1.090 mL | [Li+].[OH-]
reactant | HCl | 1M, 1.1 mL | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (S)-2-(methoxycarbonylamino)-2-((S)-tetrahydro-2H-pyran-3-yl)acetic acid | 125 mg | COC(=O)N[C@H](C(=O)O)[C@H]1COCCC1 | C9H15NO5
